US09301951B2
Intermediate 73a: 4-(piperidin-1-yl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline
Into a 50-mL round-bottom flask, was placed a solution of 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine (600.0 mg, 1.81 mmol, 1.00 equiv) in ethyl acetate (30.0 mL), then Palladium carbon (10%) (150 mg) was added next. The gas of H2 was introduced in. The resulting solution was stirred for 1 h at 0=5° C. The Pd/C was filtered out and the filtrate was collected and concentrated under vacuum. This resulted in 545.8 mg (99%) of 4-(piperidin-1-yl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine as a green to yellow solid. The target product was unstable, it was used to the next reaction step rapidly

reactant | 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | 1.81 mmol, 600.0 mg, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)B1OC(C(O1)(C)C)(C)C | C17H25BN2O4
solvent | ethyl acetate | 30.0 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium carbon | 150 mg | [C].[Pd]
product | 4-(piperidin-1-yl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-aniline | N1(CCCCC1)C1=CC(=C(N)C=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
